US06355636B1
To 400 mg of 4-(3-bromo-phenylamino)-6-(4-methoxy-benzylamino)-[1.7]naphthyridine-3-carbonitrile in 10 mL of methylene chloride was added 10 mL of trifluoroacetic acid. After stirring under an inert atmosphere for 20 hours, 10 mL of toluene was added and the solvents were stripped on a rotary evaporator. The product was purified by flash chromatography with a gradient of 0-5% methanol/chloroform to give 250 mg of 6-amino-4-(3-bromo-phenylamino)-[1.7]naphthyridine-3-carbonitrile as an off-white solid: melting point 185-190° C. (decomposed); mass spectrum (m/e): M+H 340.0, 342.1.

reactant | 4-(3-bromo-phenylamino)-6-(4-methoxy-benzylamino)-[1.7]naphthyridine-3-carbonitrile | 400 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)NCC1=CC=C(C=C1)OC)C#N | C23H18BrN5O
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-amino-4-(3-bromo-phenylamino)-[1.7]naphthyridine-3-carbonitrile | 250 mg | NC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=CC=C1)Br | C15H10BrN5
